US07056926B2
C. Synthesis of N-[4-(2,4-dioxo(1,3-dihydroquinazolin-3-yl))phenyl]{[(5-chloro-3-fluoro(2-thienyl))sulfonyl]amino}carboxamide
A 19 mg-sample (0.07 mmol) of (tert-butyl)[(5-chloro-3-fluoro(2-thienyl))sulfonyl]amine was dissolved in neat TFA and stirred for 1 h, concentrated in vacuo and used directly in the next transformation. This sample was dissolved in 150 uL of DCM and 21 mg (0.084 mmol) of DSC was added followed by 21 μL (0.14 mmol) of DBU. This solution was stirred for 18 h, 26 mg (0.07) of 3-(4-aminophenyl)-1,3-dihydroquinazoline-2,4-dione trifluoroacetate salt was added plus 150 μL of dry acetonitrile and refluxed for 2 h. This material was then purified on RP-HPLC to afford 11 mg (34%) of the desired product. ES-MS: M+H+=495 (Cl).

reactant | (tert-butyl)[(5-chloro-3-fluoro(2-thienyl))sulfonyl]amine | 0.07 mmol | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1F)Cl | C8H11ClFNO2S2
reactant | DBU | 0.14 mmol, 21 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-(4-aminophenyl)-1,3-dihydroquinazoline-2,4-dione trifluoroacetate salt | 26 mg | FC(C(=O)O)(F)F.NC1=CC=C(C=C1)N1C(NC2=CC=CC=C2C1=O)=O
reactant | acetonitrile | 150 μL | C(C)#N | C2H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[4-(2,4-dioxo(1,3-dihydroquinazolin-3-yl))phenyl]{[(5-chloro-3-fluoro(2-thienyl))sulfonyl]amino}carboxamide | 11 mg, 34% | O=C1NC2=CC=CC=C2C(N1C1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1SC(=CC1F)Cl)=O | C19H12ClFN4O5S2
